US07060827B2
In like manner to the preparation of N4-[3-(2-hydroxyethylamino)phenyl]-N2-[3-[N-(2-hydroxyethylamino)]carbonylmethyleneaminophenyl]-5-fluoro-2,4-pyrimidinediamine, N2-(carboxymethyleneaminophenyl)-5-fluoro-N4-[3-(2-hydroxyethylamino)phenyl]-2,4-pyrimidinediamine and 1-amino-2,3-propanediol were reacted to give N2-[3-[N-(2,3-dihydroxypropyl)amino]carbonylmethyleneaminophenyl]-5-fluoro-N4-[3-(2-hydroxyethylamino)phenyl]-2,4-pyrimidinediamine. LCMS: ret. time: 12.86 min.; purity: 90.0%; MS (m/e): 486.40 (MH+).

reactant | N2-(carboxymethyleneaminophenyl)-5-fluoro-N4-[3-(2-hydroxyethylamino)phenyl]-2,4-pyrimidinediamine | C(=O)(O)C=NC1=C(C=CC=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)NCCO)F | C20H19FN6O3
reactant | 1-amino-2,3-propanediol | NCC(CO)O | C3H9NO2
product | N2-[3-[N-(2,3-dihydroxypropyl)amino]carbonylmethyleneaminophenyl]-5-fluoro-N4-[3-(2-hydroxyethylamino)phenyl]-2,4-pyrimidinediamine | OC(CNC(=O)C=NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)NCCO)F)CO | C23H26FN7O4
